### PR TITLE
feat(confluence): add relation-level reduction inclusions

### LINKED ISSUE #696: restate `parallelReduction_of_red` and others using `≤`?
https://github.com/leanprover/cslib/blob/5c41dcf2f4767830b122c46daabcab2dfa383da1/Cslib/Languages/CombinatoryLogic/Confluence.lean#L97

### PR DESCRIPTION
**Pull request by JJYYY-JJY**
Restates four reduction inclusions as namespaced relation inequalities. Pointwise use remains available through dot notation without duplicate wrapper theorems.

This intentionally removes the old pointwise theorem names; there were no in-repository callers.

Closes #696.

[Zulip chat](https://leanprover.zulipchat.com/#narrow/channel/513188-CSLib/topic/Scope.20of.20issue.20.23696/with/609971277)

Codex was used for part of the code, I have reviewed all the changes done by it.

### CODE REVIEW

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBetaConfluence.lean [hunk 1]
```diff
@@ -106,10 +110,9 @@ lemma para_to_redex (para : M ⭢ₚ N) : M ↠βᶠ N := by
       _           ⭢βᶠ m' ^ n'       := by grind
 
 /-- Multiple parallel reduction is equivalent to multiple β-reduction. -/
-theorem parachain_iff_redex : M ↠ₚ N ↔ M ↠βᶠ N := by
-  refine Iff.intro ?chain_redex ?redex_chain <;> intros h <;> induction h <;> try rfl
-  case redex_chain redex chain => exact ReflTransGen.tail chain (step_to_para redex)
-  case chain_redex para  redex => exact ReflTransGen.trans redex (para_to_redex para)
+theorem parachain_iff_redex : M ↠ₚ N ↔ M ↠βᶠ N :=
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullBetaConfluence.lean]: Maybe for consistency this should now be stated as `(· ↠ₚ ·) = (· ↠βᶠ ·)` and given a better consistent name.

**Review by chenson2018 — APPROVED** [review]
This looks good, I added the same change to a couple of the theorems for `Diamond` and `Confluence` as well. Thank you!
